* Z:\mnt\design.r\spice\examples\1261CS8.asc
C2 N002 N004 .1µ
V1 IN 0 5
C3 OUT 0 3.3µ
Rload OUT 0 1K
R1 IN N003 3.3K
XU1 IN N002 N004 0 0 OUT N003 N001 LTC1261CS8
.tran 1m
.lib LTC1261CS8.sub
.backanno
.end
